US07037932B2
3-[Benzyl(methyl)amino]-1-phenyl-1-propanol
A solution of 3-chloro-1-phenylpropan-1-ol (2 g, 11.7 mmol), N-methylbenzylamine (2.12 g, 17.5 mmol), potassium iodide (2.6 g, 22 mmol), and potassium carbonate (3.2 g, 23.4 mmol) in dimethylformamide (120 mL) was stirred at 90° C. in a reacti-vial for 16 h. After this time the reaction was allowed to cool to room temperature. The reaction mixture was purified by an SCX-2 column eluting with Methanol followed by ammonia:methanol solution (7 N). The organics were then evaporated and the compound taken directly onto the next step without any further purification. (M+H+1 [256]); δH (300 MHz, CDCl3) 7.2–7.4 (10H, m, Ar), 4.9 (1H, t, CH—OH), 3.55 (1H, d, CH2—Ph), 3.45 (1H, d, CH2—PH), 2.8–3 (1H, m, CH2), 2.55–2.65 (1H, m, CH2), 2.25 (3H, s, CH3), 1.8–1.9 (2H, m, CH2), 1.6 (1H, brs, OH).

reactant | 3-chloro-1-phenylpropan-1-ol | 11.7 mmol, 2 g | ClCCC(O)C1=CC=CC=C1 | C9H11ClO
reactant | N-methylbenzylamine | 17.5 mmol, 2.12 g | CNCC1=CC=CC=C1 | C8H11N
reactant | potassium iodide | 22 mmol, 2.6 g | [I-].[K+]
reactant | potassium carbonate | 23.4 mmol, 3.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
product | 3-[Benzyl(methyl)amino]-1-phenyl-1-propanol | C(C1=CC=CC=C1)N(CCC(O)C1=CC=CC=C1)C | C17H21NO
